US05374636
(1R,2R,3S)-3-(3,4-Dichlorophenyl)-2-methylcyano-tropane, hydrochloride.
A solution of (1R,2S,3S)-2-hydroxymethyl-3-(3,4-dichloro-phenyl)tropane (6.9 g, 23 mmol), triethyl amine (7 ml, 51 mmol) and p-toluenesulphonyl chloride (6.4 g, 34 mmol) in 50 ml methylene chloride was stirred over night at room temperature followed by concentration of the reaction mixture in vacuo. Water (50 ml) and diethylether (50 ml) was added and the mixture was stirred at room temperature for 30 minutes. The ether phase was first washed once with 15 ml 1M sodium hydroxide solution followed by three times water and was finally concentrated in vacuo. The residue was dissolved in ethanol (200 ml) and sodium cyanide (2.5 g, 51 mmol) was added. The mixture was stirred at reflux temperature for two days followed by concentration in vacuo. The residue was stirred with diethyl ether and water and the ether phase was washed twice with water and concentrated in vacuo. The crude product was subjected to column chromatography using methylene chloride+acetone+methanol (4+ 1+1) as eluent and the fractions containing the product was concentrated in vacuo. The product was dissolved in a small amount of methylene chloride and a solution of hydrochloric acid in diethylether (2M) was added. The mixture was concentrated in vacuo yielding the title compound as a hydroscopic crystals.

reactant | (1R,2S,3S)-2-hydroxymethyl-3-(3,4-dichloro-phenyl)tropane | 23 mmol, 6.9 g | OC[C@@H]1[C@H]2CC[C@@H](C[C@@H]1C1=CC(=C(C=C1)Cl)Cl)N2C | C15H19Cl2NO
reactant | triethyl amine | 51 mmol, 7 ml | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulphonyl chloride | 34 mmol, 6.4 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | sodium cyanide | 51 mmol, 2.5 g | [C-]#N.[Na+]
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | diethylether | 50 ml | C(C)OCC | C4H10O
solvent | Water | 50 ml | O | H2O
product | (1R,2R,3S)-3-(3,4-Dichlorophenyl)-2-methylcyano-tropane, hydrochloride | Cl.ClC=1C=C(C=CC1Cl)[C@@H]1[C@H]([C@]2(CC[C@@H](C1)N2C)C#N)C | InChI=1S/C16H18Cl2N2.ClH/c1-10-13(11-3-4-14(17)15(18)7-11)8-12-5-6-16(10,9-19)20(12)2;/h3-4,7,10,12-13H,5-6,8H2,1-2H3;1H/t10-,12+,13+,16+;/m1./s1
